US05532237
Step 1: 5-Methoxy-2-methyl-3-(2-(morpholin-4-yl)ethyl)-1H-indole
To 5-methoxy-2-methyl-1H-indole (5.00 g; 31.0 mmol) in 30 mL of dry THF at 0° C. was added dropwise MeMgBr (3.0M in Et2O; 11.4 mL; 34.2 mmol). The solution was stirred 30 min at r.t. after which ZnCl2 (0.5M in THF; 64 mL; 32 mmol) was added. The mixture was stirred at r.t., after 1 h, N-(2-iodoethyl)morpholine (14.41 g; 51.5 mmol) was added. The final mixture was stirred at r.t. overnight. The mixture was poored in saturated NaHCO3 (100 mL), extracted with EtOAc (2×100 mL). The organic phase was washed with brine (100 mL), dried over Na2SO4, filtered, concentrated and flash chromatographed (Silica gel; EtOAc/Ace O to 10%) to yield 587 mg (7%) of the title compound.

reactant | 5-methoxy-2-methyl-1H-indole | 31.0 mmol, 5.00 g | COC=1C=C2C=C(NC2=CC1)C | C10H11NO
reactant | MeMgBr | 34.2 mmol, 3.0M, 11.4 mL | C[Mg+].[Br-]
reactant | N-(2-iodoethyl)morpholine | 51.5 mmol, 14.41 g | ICCN1CCOCC1 | C6H12INO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
catalyst | ZnCl2 | 32 mmol, 0.5M, 64 mL | [Cl-].[Cl-].[Zn+2]
product | 5-Methoxy-2-methyl-3-(2-(morpholin-4-yl)ethyl)-1H-indole | 587 mg, 7% | COC=1C=C2C(=C(NC2=CC1)C)CCN1CCOCC1 | C16H22N2O2
